US05098602
3-fluoro-4-(2-methylnonanoyl) phenyl-3-fluoro-4-decyloxy benzoic acid
The same procedure as in Example 20 was repeated, except that (+)-3-fluoro-4-(2-methylnonanoyl) phenol was used instead of (+)-3-fluoro-4-(2-methyloctanoyl) phenol in Example 20 and 3-fluoro-4-decyloxy benzoic acid was used instead of 3-fluoro-4-heptyloxy benzoic acid in Example 20, to obtain an objective compound having the aforementioned physical and chemical properties.

reactant | (+)-3-fluoro-4-(2-methylnonanoyl) phenol | FC=1C=C(C=CC1C(C(CCCCCCC)C)=O)O | C16H23FO2
reactant | 3-fluoro-4-decyloxy benzoic acid | FC=1C=C(C(=O)O)C=CC1OCCCCCCCCCC | C17H25FO3
product | 3-fluoro-4-(2-methylnonanoyl) phenyl-3-fluoro-4-decyloxy benzoic acid | FC=1C=C(C=CC1C(C(CCCCCCC)C)=O)C1=C(C(=O)O)C=CC(=C1F)OCCCCCCCCCC | C33H46F2O4
